US08729074B2
N-(2-Chloro-5-(7-(pyridin-3-yl)imidazo[1,2-a]pyridin-3-yl)pyridin-3-yl)methanesulfonamide
N-(5-(7-bromoimidazo[1,2-a]pyridin-3-yl)-2-chloropyridin-3-yl)methanesulfonamide. To a 5 mL microwave tube was added 5-(7-bromoimidazo[1,2-a]pyridin-3-yl)-2-chloropyridin-3-amine (0.100 g, 0.309 mmol), methanesulfonyl chloride (0.029 mL, 0.371 mmol), and pyridine (2 mL). The resulting mixture was sealed and heated at 100° C. for 3 h. The reaction mixture was cooled to rt and concentrated. The residue was partitioned between water and DCM. The aqueous layer was extracted with DCM (2×50 mL). The combined organic layers were dried over MgSO4 and solvent removed. The crude product was purified using SiO2 chromatography (Teledyne Isco RediSep®, 12 g SiO2, DCM:EtOAc:MeOH (2M NH3)=85%:12%:3%, Flow=30 mL/min) to afford the desired product as light brown solid (40.0 mg). MS (ESI pos. ion) m/z: 400.8. Calcd exact mass for C13H10BrClN4O2S: 399.9. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 3.15 (s, 3H) 7.06 (d, J=7.02 Hz, 1H) 7.81 (s, 1H) 7.93 (s, 1H) 8.12-8.20 (m, 2H) 8.43 (s, 1H).

reactant | N-(5-(7-bromoimidazo[1,2-a]pyridin-3-yl)-2-chloropyridin-3-yl)methanesulfonamide | BrC1=CC=2N(C=C1)C(=CN2)C=2C=C(C(=NC2)Cl)NS(=O)(=O)C | C13H10BrClN4O2S
reactant | 5-(7-bromoimidazo[1,2-a]pyridin-3-yl)-2-chloropyridin-3-amine | 0.309 mmol, 0.100 g | BrC1=CC=2N(C=C1)C(=CN2)C=2C=C(C(=NC2)Cl)N | C12H8BrClN4
reactant | methanesulfonyl chloride | 0.371 mmol, 0.029 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | N-(2-Chloro-5-(7-(pyridin-3-yl)imidazo[1,2-a]pyridin-3-yl)pyridin-3-yl)methanesulfonamide | 40.0 mg | ClC1=NC=C(C=C1NS(=O)(=O)C)C1=CN=C2N1C=CC(=C2)C=2C=NC=CC2 | C18H14ClN5O2S
